US07943607B2
7-Fluoro-3,4-dihydro-2H-5,1,2-benzoxathiazepine 1,1-dioxide
Sodium hydride (60% dispersion in mineral oil) (260 mg, 6.49 mmol) was added to a solution of 2,4-difluoro-N-(2-hydroxyethyl)benzenesulfonamide (0.7 g, 2.95 mmol) in DMF (100 mL) and the mixture stirred at RT for 48 hours. The solvent was removed in vacuo, iced water (200 mL) added and the mixture extracted into ethyl acetate. The combined organic extracts were washed with brine (40 mL), dried (MgSO4), filtered and reduced in vacuo to give a white solid which was chromatographed on silica, eluting with 20-70% ethyl acetate in isohexane, to give the desired compound as a white solid (0.18 g). 1H NMR δ (CDCl3): 3.65-3.70 (m, 2H), 4.25-4.27 (m, 2H), 4.69 (t, 1H), 6.86-6.94 (m, 2H), 7.82-7.86 (m, 1H); m/z 216 (M−H)−

reactant | Sodium hydride | 6.49 mmol, 260 mg | [H-].[Na+]
reactant | 2,4-difluoro-N-(2-hydroxyethyl)benzenesulfonamide | 2.95 mmol, 0.7 g | FC1=C(C=CC(=C1)F)S(=O)(=O)NCCO | C8H9F2NO3S
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 7-Fluoro-3,4-dihydro-2H-5,1,2-benzoxathiazepine 1,1-dioxide | 0.18 g | FC=1C=CC2=C(OCCNS2(=O)=O)C1 | C8H8FNO3S
